US07176242B2
In a sealed tube, a solution of dimethyl 5-bromoisophthalate (5.0 g, 18.3 mmol), N-benzylpiperazine (4.0 mL, 23.0 mmol), and cesium carbonate (8.4 g, 25.7 mmol) in toluene (36 mL) was degassed with nitrogen at room temperature for 20 minutes. Palladium (II) acetate (225 mg, 0.92 mmol) and BINAP (1.7 g, 2.74 mmol) were quickly added under nitrogen and the solution heated to 80° C. overnight to yield a yellow solution with a white suspension. The reaction mixture was cooled to room temperature, vacuum filtered, and the solid rinsed with fresh toluene. The filtrate was then concentrated under reduced pressure to yield a yellow oil. Purification by flash chromatography (silica, 80:20 hexanes/ethyl acetate) gave the desired dimethyl 5-(4-benzylpiperazin-1-yl)isophthalate (4.40 g): ESI MS m/z 369 [M+H]+.

reactant | dimethyl 5-bromoisophthalate | 18.3 mmol, 5.0 g | BrC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C10H9BrO4
reactant | N-benzylpiperazine | 23.0 mmol, 4.0 mL | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | cesium carbonate | 25.7 mmol, 8.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 2.74 mmol, 1.7 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 36 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium (II) acetate | 0.92 mmol, 225 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | dimethyl 5-(4-benzylpiperazin-1-yl)isophthalate | 4.40 g | C(C1=CC=CC=C1)N1CCN(CC1)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C21H24N2O4
